US09278950B2
Step 1. Ethyl 3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylate
A mixture of ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate (300 mg, 0.7 mmol), morpholine (120 mg, 1.4 mmol), Pd(OAc)2 (20 mg), dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (49 mg, 0.10 mmol), and K3PO4 (580 mg, 2.8 mmol) in tert-butanol (10 mL) in a sealed vial was purged with nitrogen then heated at 100° C. for 1 h. The solution was allowed to cool then and diluted with EtOAc, and the mixture was filtered through diatomaceous earth. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by flash chromatography on 40 g of silica gel, eluting with 0-100% EtOAc in hexanes, to give the sub-title compound (0.3 g, 20%). LCMS (ESI) calc. for C24H26N3O5 [M+H]+: m/z=436.2. found: 436.1.

reactant | ethyl 3-{[(benzyloxy)carbonyl]amino}-7-bromoquinoline-2-carboxylate | 0.7 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)OCC | C20H17BrN2O4
reactant | morpholine | 1.4 mmol, 120 mg | N1CCOCC1 | C4H9NO
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.10 mmol, 49 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | K3PO4 | 2.8 mmol, 580 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
catalyst | Pd(OAc)2 | 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Ethyl 3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylate | 0.3 g, 20% | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCOCC1)C(=O)OCC | C24H25N3O5
